US04612329
Alpha-isopropyl-alpha-[3-[N-[3-(2-aminophenoxy)propyl]-N-methylamino]propyl]-3,4,5-trimethoxyphenylacetonitrile
0.92 g of alpha-isopropyl-alpha-[3-[N-[3-(2-nitrophenoxy)propyl]-N-methylamino]propyl]-3,4,5-trimethoxyphenylacetonitrile was hydrogenated in 20 ml of methanol over 10 mg of platinum oxide at atmospheric pressure and room temperature. The catalyst was filtered off and filtrate was evaporated to give 0.91 g of the desired compound as a yellow oil. The oxalate of this compound was obtained in the usual manner.

reactant | alpha-isopropyl-alpha-[3-[N-[3-(2-nitrophenoxy)propyl]-N-methylamino]propyl]-3,4,5-trimethoxyphenylacetonitrile | 0.92 g | C(C)(C)C(C#N)(CCCN(C)CCCOC1=C(C=CC=C1)[N+](=O)[O-])C1=CC(=C(C(=C1)OC)OC)OC | C27H37N3O6
solvent | methanol | 20 ml | CO | CH4O
catalyst | platinum oxide | 10 mg | [Pt]=O
product | Alpha-isopropyl-alpha-[3-[N-[3-(2-aminophenoxy)propyl]-N-methylamino]propyl]-3,4,5-trimethoxyphenylacetonitrile | 0.91 g | C(C)(C)C(C#N)(CCCN(C)CCCOC1=C(C=CC=C1)N)C1=CC(=C(C(=C1)OC)OC)OC | C27H39N3O4
